US09428490B2
tert-Butyl (1-benzhydryl-3-fluoroazetidin-3-yl)methylcarbamate (0.6 g, 1.35 mmol) was dissolved in ethanol and Pd(OH)2 (0.38 gm, 2.7 mmol) was added. The reaction mixture was stirred at rt for 14 h under H2 atmosphere. The solids were removed by filtration and the filtrate was concentrated under reduced pressure to afford 0.2 g of tert-butyl (3-fluoroazetidin-3-yl)methylcarbamate (66% yield).

reactant | tert-Butyl (1-benzhydryl-3-fluoroazetidin-3-yl)methylcarbamate | 1.35 mmol, 0.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(F)CNC(OC(C)(C)C)=O | C22H27FN2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd(OH)2 | 2.7 mmol, 0.38 gm | [OH-].[OH-].[Pd+2]
product | tert-butyl (3-fluoroazetidin-3-yl)methylcarbamate | 0.2 g, 66% yield | FC1(CNC1)CNC(OC(C)(C)C)=O | C9H17FN2O2
